US07687491B2
(3e) 1-[(4-{5-[4-Phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylic acid
To a solution of ethyl 1-[(4-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate (70 mg, 0.13 mmol) that was obtained in Example 3 (3d) in dioxane (2 ml) was added a 1N aqueous solution of sodium hydroxide (0.39 ml, 0.39 mmol) with stirring, and the resulting mixture was stirred at room temperature for 2 hours. After stirring, acetic acid (22 μl, 0.39 mmol) was added to the reaction mixture to quench the reaction, and the resulting mixture was evaporated in vacuo. To the residue thus obtained were added successively methanol (1 ml) and water (1 ml) with stirring, and the white solid precipitated was collected by filtration using a Kiriyama funnel, washed with a mixed solvent of water and methanol (3:7) and dried in vacuo to afford the title compound (34 mg) in a yield of 53% as a crystalline white solid.

reactant | ethyl 1-[(4-{5-[4-phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate | 0.13 mmol, 70 mg | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C=1C=C(SC1)CN1CC(C1)C(=O)OCC | C24H20F3N3O3S2
reactant | sodium hydroxide | 0.39 mmol, 0.39 ml | [OH-].[Na+]
reactant | acetic acid | 0.39 mmol, 22 μl | C(C)(=O)O | C2H4O2
reactant | methanol | 1 ml | CO | CH4O
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | 1-[(4-{5-[4-Phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylic acid | 34 mg, yield of 53% | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C=1C=C(SC1)CN1CC(C1)C(=O)O | C22H16F3N3O3S2
